US06756380B1
To a solution of 0.3 g (0.58 mmol) 2-methanesulfonyl-5-phenyl-pyrimidine-4-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide in 10 ml dioxan/H2O 5 ml 2N NaOH solution was added. The reaction mixture was stirred for 3 hrs. The pH of the reaction solution was than adjusted to 4 with 25% HCl. The aqueous layer was extracted three times with 50 ml CH2Cl2, the combined organic layers dried (MgSO4), filtered and evaporated. The residue was purified by chromatography (SiO2, CH2Cl2/methanol 9:1) to give 0.20 g (75%) 2-hydroxy-5-phenyl-pyrimidine-4-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide as a off-white solid, m.p. 218.5-219.5°.

reactant | 2-methanesulfonyl-5-phenyl-pyrimidine-4-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide | 0.58 mmol, 0.3 g | FC(C=1C=C(CN(C(=O)C2=NC(=NC=C2C2=CC=CC=C2)S(=O)(=O)C)C)C=C(C1)C(F)(F)F)(F)F | C22H17F6N3O3S
reactant | HCl | Cl | ClH
reactant | dioxan H2O | 2N, 10 ml | O1CCOCC1.O
product | 2-hydroxy-5-phenyl-pyrimidine-4-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide | 0.20 g, 75% | FC(C=1C=C(CN(C(=O)C2=NC(=NC=C2C2=CC=CC=C2)O)C)C=C(C1)C(F)(F)F)(F)F | C21H15F6N3O2
